*
XU1 VIN VPH +5 -5 N002 LT1001
V1 -5 0 -5
V2 +5 0 5
V3 +15 0 15
V4 -15 0 -15
XU3 P001 N001 +5 -5 N001 LT1001
XU4 N005 N003 +5 -5 N003 LT1001
XU5 VIN VMID +5 -5 VOUT LT1001
V5 P002 0 0.5
D1 N002 VPH 1N4148
C1 VPH 0 0.1µ
XU2 VIN VPL +5 -5 N004 LT1001
D2 VPL N004 1N4148
C2 VPL 0 0.1µ
R1 N001 VMID 1MEG
R2 VMID N003 1MEG
V6 P003 P002 SINE(0 1 {F})
V7 P004 P003 SINE(0 .33 3*{F})
V8 VIN P004 SINE(0 0.2 5*{F})
R3 VOUT 0 10K
R4 P001 VPH 10meg
R5 N005 VPL 10meg
.model D D
.lib /Users/eru/Library/Application Support/LTspice/lib/cmp/standard.dio
* supply rails
.TRAN 0.1 0.15 0.1
.param f=100
.lib LTC.lib
.backanno
.end
