*
V1 -5 0 -5
V2 +5 0 5
V3 +15 0 15
V4 -15 0 -15
XU4 N004 vint +5 -5 VOUT LT1001
V5 P001 0 1
V6 P002 P001 SINE(0 1 {F})
V7 P003 P002 SINE(0 .33 3*{F})
V8 vin P003 SINE(0 0.2 =5{F})
R3 VOUT 0 10K
XU1 0 N001 +5 -5 N002 LT1001
C1 N002 N001 1µ
R1 N001 N004 1meg
R2 N002 N001 1meg
XU2 0 N003 +5 -5 vint LT1001
R4 N003 N002 100k
R5 vint N003 100k
* supply rails
.TRAN 0.1 0.101 0.1
.param F=10000
.lib LTC.lib
.backanno
.end
